US08124649B2
To 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one (150 mg, 0.466 mmol) in dioxane/water (2850/150 μL) was added 2-fluoro-4-(methoxycarbonyl)phenylboronic acid (111 mg, 0.559 mmol) and Cs2CO3 (456 mg, 1.398 mmol). The mixture was degassed with nitrogen for 5 minutes, then PdCl2 dppf (17 mg, 0.023 mmol) was added. The mixture was heated in microwave for 40 minutes at 110° C. Water was added and the solid formed was isolated by filtration to yield methyl 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)-3-fluorobenzoate. LCMS (M+1=398).

reactant | 3-((5-bromofuran-2-yl)methylene)-5-chloroindolin-2-one | 0.466 mmol, 150 mg | BrC1=CC=C(O1)C=C1C(NC2=CC=C(C=C12)Cl)=O | C13H7BrClNO2
reactant | 2-fluoro-4-(methoxycarbonyl)phenylboronic acid | 0.559 mmol, 111 mg | FC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H8BFO4
reactant | Cs2CO3 | 1.398 mmol, 456 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | dioxane water | 150 μL | O1CCOCC1.O
catalyst | PdCl2 dppf | 0.023 mmol, 17 mg | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | methyl 4-(5-((5-chloro-2-oxoindolin-3-ylidene)methyl)furan-2-yl)-3-fluorobenzoate | ClC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=C(O1)C1=C(C=C(C(=O)OC)C=C1)F | C21H13ClFNO4
